US04952600
(Racemic)-1-[4-(3-Methoxy-1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone
A mixture of 365 mg of (racemic)-3-methoxypyrrolidine, 530 mg of N-propargyl-2-pyrrolidinone, 180 mg of paraformaldehyde, 0.6 ml of acetic acid, 20 ml of dioxane and 10 mg of cuprous chloride was stirred at reflux under argon for 1 hour. The reaction was cooled and treated with a mixture of 3 ml of 5N sodium hydroxide and 2 ml of water. The mixture was extracted twice with dichloromethane. The extracts were combined, dried, filtered and concentrated in vacuo to an oil. The oil was purified by chromatography (alumina), giving 520 mg of the desired product as a yellow oil.

reactant | (racemic)-3-methoxypyrrolidine | 365 mg | COC1CNCC1 | C5H11NO
reactant | N-propargyl-2-pyrrolidinone | 530 mg | C(C#C)N1C(CCC1)=O | C7H9NO
reactant | paraformaldehyde | 180 mg | C=O | CH2O
reactant | sodium hydroxide | 5N, 3 ml | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
product | (Racemic)-1-[4-(3-Methoxy-1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone | 520 mg | COC1CN(CC1)CC#CCN1C(CCC1)=O | C13H20N2O2
